US05902803
A mixture of 850 mg of ethyl 8-(N-ethylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate, 10 ml of dioxane, 40 ml of distilled water and 5.8 ml of 1N sodium hydroxide solution is stirred under a stream of argon at a temperature in the region of 20° C. overnight. The reaction mixture is cooled to a temperature in the region of 0° C. and neutralized with 5.8 ml of 1N hydrochloric acid. The precipitate obtained is filtered, washed with distilled water a number of times and dried in an oven. 695 mg of 8-(N-ethylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10-H imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylic acid are obtained in the form of a brown solid melting above 300° C. (1H NMR spectrum in d6-DMSO, T=300K, δ in ppm (300 MHz): 1.05 (3H, t, J=6 Hz, CH3), 3.10 (2H, m, NCH2), 3.47 (2H, s, CH2CO), 4.02 (2H, s, CH2), 7.30 (1H, d, J=8 Hz, arom. CH), 7.48 (1H, s, arom. CH), 7.82 (1H, d, J=8 Hz, arom. CH), 8.08 (1H, t, J=5 Hz, NH), 8.52 (1H, s, imidazole H)).

reactant | ethyl 8-(N-ethylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate | 850 mg | C(C)NC(=O)CC1=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=C1 | C20H20N4O4
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | sodium hydroxide | 1N, 5.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5.8 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 8-(N-ethylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10-H imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylic acid | 695 mg | C(C)NC(=O)CC1=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)O)=O)C2C=C1 | C18H16N4O4
